US04366172
4-Dimethylamino-4-(p-chlorophenyl)cyclohexanol
A suspension of 4.0 g. (0.016 mole) of 4-dimethylamino-4-(p-chlorophenyl)cyclohexanone in 60 ml. 95% isopropanol is warmed to dissolve the solid. Sodium borohydride (0.61 g.) is then added and the mixture stirred at room temperature for six hours. The bulk of the solvent is then removed in vacuum. The residue is taken up in water and methylene chloride. The organic layer is washed with water and brine and taken to dryness. The residual solid is recrystallized twice from acetone to afford 1.21 g. (30%) of product, melting point 148°-150.5° C.

reactant | 4-dimethylamino-4-(p-chlorophenyl)cyclohexanone | 0.016 mole | CN(C1(CCC(CC1)=O)C1=CC=C(C=C1)Cl)C | C14H18ClNO
reactant | Sodium borohydride | 0.61 g | [BH4-].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-Dimethylamino-4-(p-chlorophenyl)cyclohexanol | CN(C1(CCC(CC1)O)C1=CC=C(C=C1)Cl)C | C14H20ClNO
